US04288443
(a) N,N-Dimethyl-3-(1-methylethyl)-2-furancarboxamide
A solution of sodium methoxide (3.3 g) and 3-(1-methylethyl)-2-furancarboxylic acid, methyl ester (14 g) in dry methanol (50 ml) was treated with dimethylamine gas during 2 hours. The solvent was removed in vacuo and the residue was dissolved in diethyl ether (150 ml) and washed with water (100 ml). The ethereal extract was dried over anhydrous sodium sulphate and evaporation of the solvent gave the title compound (12 g) as an oil.

reactant | sodium methoxide | 3.3 g | C[O-].[Na+]
reactant | 3-(1-methylethyl)-2-furancarboxylic acid, methyl ester | 14 g | CC(C)C1=C(OC=C1)C(=O)OC | C9H12O3
reactant | dimethylamine | CNC | C2H7N
solvent | methanol | 50 ml | CO | CH4O
product | N,N-Dimethyl-3-(1-methylethyl)-2-furancarboxamide | 12 g | CN(C(=O)C=1OC=CC1C(C)C)C | C10H15NO2
